US06297235B1
b) 4-Methyl-2-thiazole hydrazide
To a solution of methyl 4-methyl-2-thiazole carboxylate (step a, 2.1 g) in methanol (20 ml) was added hydrazine hydrate (3.2 ml) dropwise over 30 mins. The reaction mixture was stirred for 1.5 hours and the precipitate filtered off to yield the title compound as a white solid (1.6 g). 1H NMR (250 MHz, DMSO) δ 2.64 (3H, s), 4.82 (2H, bs), 7.79 (1H, s), 10.25 (1H, bs).

reactant | methyl 4-methyl-2-thiazole carboxylate | CC=1N=C(SC1)C(=O)OC | C6H7NO2S
reactant | hydrazine hydrate | 3.2 ml | O.NN
solvent | methanol | 20 ml | CO | CH4O
product | 4-Methyl-2-thiazole hydrazide | 1.6 g | CC=1N=C(SC1)C(=O)NN | C5H7N3OS
